US05861393
4-Methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-(2-amidino-4-pyridyl)-(S)-alanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester hydrochloride
Sodium metal (30 mg, 1.3 mmol) was added to a stirred solution of 4-methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-(2-cyano-4-pyridyl)-(S)-alanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester (Preparation 54; 243 mg, 0.44 mmol) in ethanol (4 ml) at room temperature. After 1 hour, ammonium chloride (140 mg, 2.6 mmol) was added and the resulting mixture stirred for 18 hours and then filtered. Evaporation under reduced pressure of the filtrate followed by purification of the residue by chromatography on silica gel, using dichloromethane:methanol:0.880 aqueous ammonia solution (90:10:1) as eluent, furnished the title compound (176 mg) as a foam. Rf 0.21 (SS 13). Found: C,55.64; H,6.31; N,13.47. C28H36N6O5S; HCl requires C,55.56; H,6.16; N,13.88%.

reactant | Sodium | 1.3 mmol, 30 mg | [Na] | Na
reactant | 4-methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-(2-cyano-4-pyridyl)-(S)-alanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester | 0.44 mmol, 243 mg | C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C)CC1=CC(=NC=C1)C#N)=O | C28H33N5O5S
reactant | ammonium chloride | 2.6 mmol, 140 mg | [Cl-].[NH4+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-Methyl-1-[N-(2-methyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-(2-amidino-4-pyridyl)-(S)-alanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester hydrochloride | 176 mg | Cl.C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C)CC1=CC(=NC=C1)C(N)=N)=O | InChI=1S/C28H36N6O5S.ClH/c1-4-39-28(36)25-13-18(2)8-12-34(25)27(35)24(15-19-7-10-31-23(14-19)26(29)30)32-40(37,38)22-6-5-20-9-11-33(3)17-21(20)16-22;/h5-8,10,14,16,24-25,32H,4,9,11-13,15,17H2,1-3H3,(H3,29,30);1H/t24-,25+;/m0./s1
